US08383629B2
(±)-(E)-2-(7-chloro-1′-(3-(2-chlorophenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid
The title compound was prepared employing a procedure analogous to that described in Example 1 using methyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate and 2,3-dichlorocinnamic acid followed by a procedure analogous to that described in Example 2. LC-MS Method 1 tR=1.88, min, m/z=444, 446, 448; 1H NMR (CDCl3) 1.40 (dd, 1H), 1.52 (d, 2H), 1.74 (m, 1H), 2.39 (m, 1H), 2.48 (m, 1H), 2.6-3.2 (4H), 3.30 (m, 1H), 3.62 (m, 1H), 4.11 (d, 1H), 4.80 (d, 1H), 6.92 (d, 1H), 7.05-7.30 (5H), 7.41 (m, 1H), 7.62 (m, 1H), 8.00 (d, 1H).

reactant | methyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | ClC=1C=CC=C2C(CC3(CCNCC3)C12)CC(=O)OC | C16H20ClNO2
reactant | 2,3-dichlorocinnamic acid | ClC1=C(C=CC(=O)O)C=CC=C1Cl | C9H6Cl2O2
product | (±)-(E)-2-(7-chloro-1′-(3-(2-chlorophenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid | ClC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)Cl)=O)C12)CC(=O)O | C24H23Cl2NO3
